US09290514B2
9-(3,5-Dimethylisoxazol-4-yl)-6-methoxy-3-phenyl-2,3-dihydro[1,4]oxazino[2,3,4-hi]indazole
A solution of 9-(3,5-dimethylisoxazol-4-yl)-3-phenyl-2,3-dihydro[1,4]oxazino[2,3,4-hi]indazol-6(5H)-one (0.030 g, 0.086 mmol) in N,N-dimethylformamide (0.41 mL) was treated with sodium hydride (6.91 mg, 0.173 mmol) and stirred for 2 h. The reaction mixture was treated with methyl iodide (7.0 μL, 0.112 mmol) and stirred for 1 h. The reaction mixture was cooled to 0° C. and quenched with saturated ammonium chloride solution. The aqueous solution was extracted with ethyl acetate to give a crude tan solid. Purification via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% trifluoroacetic acid, at flow rate of 30 mL/min) gave Example 2 (1.3 mg, 4%, first peak to elute) and Example 3 (2 mg, 6%, second peak to elute) (two separate passes through the preparative LCMS system was needed to isolate both peaks). Example 2: 1H NMR (500 MHz, CDCl3) δ 7.48-7.39 (m, 4H), 7.37-7.30 (m, 2H), 6.97 (d, J=8.0 Hz, 1H), 4.74 (dd, J=11.9, 8.2 Hz, 1H), 4.55 (dd, J=12.0, 3.0 Hz, 1H), 4.34 (dd, J=8.1, 2.8 Hz, 1H), 2.95 (s, 3H), 2.35 (s, 3H), 2.23 (s, 3H); LCMS calculated for C21H20N3O3 (M+H)+: m/z=362.1. found: 362.1. Example 3: 1H NMR (500 MHz, CDCl3) δ 7.39-7.30 (m, 3H), 7.27 (d, J=8.3 Hz, 1H), 7.18-7.10 (m, 2H), 6.81 (d, J=8.3 Hz, 1H), 5.37 (dd, J=5.4, 3.4 Hz, 1H), 4.67 (dd, J=11.4, 3.4 Hz, 1H), 4.51 (dd, J=11.5, 5.5 Hz, 1H), 4.04 (s, 3H), 2.34 (s, 3H), 2.23 (s, 3H); LCMS calculated for C21H20N3O3 (M+H)+: m/z=362.1. found: 362.1.

reactant | 9-(3,5-dimethylisoxazol-4-yl)-3-phenyl-2,3-dihydro[1,4]oxazino[2,3,4-hi]indazol-6(5H)-one | 0.086 mmol, 0.030 g | CC1=NOC(=C1C1=CC=C2C(NN3C2=C1OCC3C3=CC=CC=C3)=O)C | C20H17N3O3
reactant | sodium hydride | 0.173 mmol, 6.91 mg | [H-].[Na+]
reactant | methyl iodide | 0.112 mmol, 7.0 μL | CI | CH3I
solvent | N,N-dimethylformamide | 0.41 mL | CN(C=O)C | C3H7NO
product | 9-(3,5-Dimethylisoxazol-4-yl)-6-methoxy-3-phenyl-2,3-dihydro[1,4]oxazino[2,3,4-hi]indazole | CC1=NOC(=C1C1=CC=C2C(=NN3C2=C1OCC3C3=CC=CC=C3)OC)C | C21H19N3O3
